US05910504
A slurry of dibasic potassium phosphate, 38.0 g (0.218 mol), and 1H-1,2,3-triazole, 7.53 g (6.3 mL, 0.109 mol), in 325 mL dimethylsulfoxide was treated dropwise with 3,4-difluoronitrobenzene, 17.3 g (12.1 mL, 0.109 mol), with heating to 90° C. for 18 h. The mixture was cooled to room temperature, diluted with water (500 mL) and extracted with ethyl acetate (4×50 mL). Drying (Na2SO4) and concentrating in vacuo afforded a light yellow solid. This material was chromatographed over 600 g 230-400 mesh silica gel eluting with methylene chloride, 1% (v:v), 2% (v:v) and 5% (v:v) methanol-methylene chloride to afford 11.38 g (50%) of 3-Fluoro-1-nitro-4-(1H-1,2,3-triazol-1-yl)benzene as a light yellow solid, mp=123-124.5° C., along with 9.66 g (43%) of regioisomer 3-Fluoro-1-nitro-4-(2H-1,2,3-triazol-2-yl)benzene as a light yellow solid, mp 137-139° C.

reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1H-1,2,3-triazole | N1N=NC=C1 | C2H3N3
reactant | 3,4-difluoronitrobenzene | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
solvent | dimethylsulfoxide | 325 mL | CS(=O)C | C2H6OS
solvent | water | 500 mL | O | H2O
product | 3-Fluoro-1-nitro-4-(1H-1,2,3-triazol-1-yl)benzene | 11.38 g, 50% | FC=1C=C(C=CC1N1N=NC=C1)[N+](=O)[O-] | C8H5FN4O2
